US07141561B2
Allyl-(4-benzyloxyphenyl)amine
A mixture of 4-benzyloxyaniline (3.0 g), allyl bromide (1.27 mL), potassium carbonate (4.2 g) and dimethylformamide (15 mL) was heated at 80° C. for 3 hours. After cooling, the reaction solution was filtered and concentrated. The residue was purified by MPLC. The product with the molecular weight of 239.32 (C16H17NO); MS (ESI):240 ([M+H]+), was obtained in this way.

reactant | 4-benzyloxyaniline | 3.0 g | C(C1=CC=CC=C1)OC1=CC=C(N)C=C1 | C13H13NO
reactant | allyl bromide | 1.27 mL | C(C=C)Br | C3H5Br
reactant | potassium carbonate | 4.2 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
product | Allyl-(4-benzyloxyphenyl)amine | C(C=C)NC1=CC=C(C=C1)OCC1=CC=CC=C1 | C16H17NO
